US07173031B2
B) Ethyl 4-(4-(3-(2-(4-fluorophenyl)acetyl)thioureido)phenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
To a room temperature solution of ethyl 4-chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (7.2 mg, 0.03 mmol) (for preparation see U.S. Pat. No. 6,670,357, the disclosure of which is herein incorporated by reference) and DABCO (7 mg, 0.06 mmol) in acetonitrile (0.5 mL) was added 1-(2-(4-fluorophenyl)acetyl)-3-(4-hydroxyphenyl)thiourea (0.5 mL, 0.05 mmol). The reaction was shaken at room temperature. After 30 min, LC/MS analysis indicated mostly product. The reaction was stirred at room temperature overnight. The mixture was evaporated to dryness. Purification by silica gel chromatography (eluting with 1% methanol/dichloromethane) provided the desired product contaminated with impurities. A second purification by silica gel chromatography (1–6% Ethyl acetate/dichloromethane) again did not remove all of the impurities. The resulting solid mixture was washed with methanol and dried to provide the title compound (6 mg, 39%) as a yellow solid. 1H NMR (CDCl3) δ 12.32 (s, 1H), 8.62 (s, 1H), 8.16 (s, 1H), 7.91 (s, 1H), 7.76 (m, 2H), 7.29 (m, 4H), 7.12 (m, 2H), 4.38 (q, 2H, J=7.1 Hz), 3.72 (s, 2H), 2.82 (s, 3H), 1.40 (t, 3H, J=7.1 Hz); MS(ESI+) m/z 508 (M+H)+.

reactant | ethyl 4-chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 0.03 mmol, 7.2 mg | ClC1=NC=NN2C1=C(C(=C2)C(=O)OCC)C | C10H10ClN3O2
reactant | DABCO | 0.06 mmol, 7 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 1-(2-(4-fluorophenyl)acetyl)-3-(4-hydroxyphenyl)thiourea | 0.05 mmol, 0.5 mL | FC1=CC=C(C=C1)CC(=O)NC(=S)NC1=CC=C(C=C1)O | C15H13FN2O2S
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | Ethyl 4-(4-(3-(2-(4-fluorophenyl)acetyl)thioureido)phenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=NC=NN3C2=C(C(=C3)C(=O)OCC)C)C=C1)=S | C25H22FN5O4S
